US07732463B2
1-Bromo-2-(4-methyl-phenylsulfanyl)-5-methyl-benzene (intermediate for 1f).
1-Bromo-2-(2,4-dimethyl-phenylsulfanyl)-5-methyl-benzene (intermediate for 1 g) Prepared from 2,4-dimethyl-benzenethiol and 2-bromo-1-iodo-4-methyl-benzene.

reactant | 1-Bromo-2-(2,4-dimethyl-phenylsulfanyl)-5-methyl-benzene | 1 g | BrC1=C(C=CC(=C1)C)SC1=C(C=C(C=C1)C)C | C15H15BrS
reactant | 2,4-dimethyl-benzenethiol | CC1=C(C=CC(=C1)C)S | C8H10S
reactant | 2-bromo-1-iodo-4-methyl-benzene | BrC1=C(C=CC(=C1)C)I | C7H6BrI
product | 1-Bromo-2-(4-methyl-phenylsulfanyl)-5-methyl-benzene | BrC1=C(C=CC(=C1)C)SC1=CC=C(C=C1)C | C14H13BrS
